US03966746
b. 4-Hydroxy-1-(2-furyl)methyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester
250 g of [[[1-(2-furyl)methyl-5-pyrazolyl]amino]methylene]malonic acid diethyl ester (0.75 mol) is dissolved in 1 liter of diphenyl ether and heated to 240° for 2 hours. The ethanol formed is continuously distilled off. The solvent is removed in vacuo. The 4-hydroxy-1-(2-furyl)methyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester remains and is recrystallized from methanol, yield 248 g (86%), m.p. 103°-106°.

reactant | [[[1-(2-furyl)methyl-5-pyrazolyl]amino]methylene]malonic acid diethyl ester | 0.75 mol, 250 g | C(C)OC(C(C(=O)OCC)=CNC1=CC=NN1CC=1OC=CC1)=O | C16H19N3O5
reactant | ethanol | C(C)O | C2H6O
solvent | diphenyl ether | 1 liter | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 4-Hydroxy-1-(2-furyl)methyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=NC1)N(N=C2)CC=2OC=CC2)O | C14H13N3O4
